US05831004
A. Methyl Tritylthioglycolate
Methyl thioglycolate (0.50 g, 4.71 mmol) was dissolved in 5 mL anhydrous TFA. Triphenylmethanol (1.23 g, 4.71 mmol, 1 equiv.) was added and the deep-red solution was stirred at room temperature for 2 hours. TFA was evaporated and the residue was dissolved in ether (100 mL), washed with saturated sodium bicarbonate (50 mL×2) and brine (50 mL×1), dried over MgSO4, and concentrated to dryness, yielding a white solid (1.64 g, quantitative). Rf =0.45 (20% ether/petroleum ether). Products were confirmed by 1H NMR (400 MHz, CDCl3).

reactant | Methyl thioglycolate | 4.71 mmol, 0.50 g | C(CS)(=O)OC | C3H6O2S
reactant | Triphenylmethanol | 4.71 mmol, 1.23 g, 1 equiv. | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | Methyl Tritylthioglycolate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)C(C(=O)OC)S | C22H20O2S
